US04460579
A solution of (R)-dihydro-5-[[ethoxy(6-phthalimidohexyl)phosphinyl]amino]-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, ethyl ester in dioxane is treated with hydrazine hydrate and stirred at room temperature under argon. After the reaction is completed, the mixture is diluted with toluene and the solvents decanted. The residue is triturated with methylene chloride and filtered. The combined filtrate is evaporated to dryness to give (R)-dihydro-5-[[(6-aminohexyl)ethoxyphosphinyl]amino]-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, ethyl ester.

reactant | (R)-dihydro-5-[[ethoxy(6-phthalimidohexyl)phosphinyl]amino]-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, ethyl ester | C(C)OP(=O)(CCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)NC2C(N([C@H](SC2)C2=CC=CC=C2)CC(=O)OCC)=O | C30H38N3O7PS
reactant | hydrazine hydrate | O.NN
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (R)-dihydro-5-[[(6-aminohexyl)ethoxyphosphinyl]amino]-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, ethyl ester | NCCCCCCP(=O)(OCC)NC1C(N([C@H](SC1)C1=CC=CC=C1)CC(=O)OCC)=O | C22H36N3O5PS
